reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[C:2](=[C:4](/[C:5]([H:15])([H:16])[H:17])[H:14])[H:10])([H:7])([H:8])[H:9].[C:3]([O:6][H:18])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9],89.4994329139715
[C:1]([C:2]([C:4]([H:13])([H:14])[H:15])=[C:5]=[C:6]([C:3]([H:10])([H:11])[H:12])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9],98.68545343016771
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]1([H:12])([H:13])[C:5]([H:14])([H:15])[O:6]1,76.9303623241343
[C:1]([N:2]([C:3](=[C:4]([H:13])[H:14])[C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[O:5]([H:12])[H:15]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],59.74670265159039
[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]([C:3]([H:10])([H:11])[H:12])(=[C:4]([H:14])[H:15])[C:5]#[N:6]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[N:6])([H:7])([H:8])[H:9],99.8970708328867
[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8]>>[C-:1]([O+:2]=[C:3]([C:5]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8].[C:4]([H:6])([H:10])([H:11])[H:12],90.1704222250775
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2]#[O+:3].[C-:4]#[O+:5].[C:1]([N:6]([H:10])[H:11])([H:7])([H:8])[H:9],127.47965651915001
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13],65.1648556953718
[C-:6]#[O+:7].[C:1]([C:2](/[C:3]([C:4]([H:14])([H:15])[H:16])=[N:5]\[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],45.8722174987247
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:7]1([H:17])[C:4](=[O:5])[C:6]1([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],82.04571964086814
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1](/[C:2](=[C:3]1\[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8])[H:9],71.27911544693029
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[O:2][C:3]([O-:4])=[C+:5][N:6]1[H:7],86.9581934200935
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:5]1([N:7]([H:13])[H:14])[C@@:2]([C:3](=[O:4])[H:12])([H:11])[O:6]1)([H:8])([H:9])[H:10],107.03975399613701
[C:1]([C:2]([O+:7]=[C:6]([N:5]([C-:3]([C:4]([H:14])([H:15])[H:16])[H:13])[H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],28.9861865925958
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](/[N:2]=[C:3](/[N:4]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],43.773524920345295
[C:1]([O:2][H:15])([H:7])([H:8])[H:9].[C:3](=[N:4][C:5]([H:10])([H:11])[H:12])=[C:6]([H:13])[H:14]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],45.656242262529375
[C:1](/[C:2](=[C:3](\[C:5](=[O:6])[H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],63.745169251841475
[C:1]1([H:7])([H:8])[C:3]([C:2]([C:5]#[C:6][H:12])([H:9])[H:10])=[C:4]1[H:11]>>[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],94.6977772118235
[C:1]([C:2]([C:3]([O:4][H:17])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:16])[H:18])([H:14])[H:15]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],50.90261931808469
[C:2](#[N:3])[H:6].[O:1]=[N+:5]=[N-:4]>>[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6],42.4069837604186
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]([C:2]1=[C:6]2[N:4]([C:3]1([H:7])[H:8])[C:5]2([H:9])[H:10])[H:11],81.9680428192323
[N:1]([C:2]1=[N:6][C:5]([H:9])([H:10])[N:4]=[N:3]1)([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],26.106009420879698
[C:1]([N:2]=[C:3]=[N:4][H:12])([H:8])([H:9])[H:10].[C:5]([O:6][H:11])[N:7]([H:13])[H:14]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],7.893531229334506
[O:1]([c:2]1[c:3]([H:9])[o:4][c:6]([H:10])[c:5]1[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],85.4991861472365
